US08859814B2
2-chloro-N-{1-[(4-methylpiperidin-1-yl)carbonyl]-3-phenylpropyl}benzenesulfonamide
A mixture of 29 mg (0.11 mmol) of 1-(4-methylpiperidin-1-yl)-1-oxo-4-phenylbutan-2-amine, 2-chlorobenzenesulfonyl chloride, and 0.19 mL (0.11 mmol) of iPr2NEt in 4 mL of CH2Cl2 is stirred for 16 h, concentrated, and purified by preparative HPLC to provide Example 1

reactant | 1-(4-methylpiperidin-1-yl)-1-oxo-4-phenylbutan-2-amine | 0.11 mmol, 29 mg | CC1CCN(CC1)C(C(CCC1=CC=CC=C1)N)=O | C16H24N2O
reactant | 2-chlorobenzenesulfonyl chloride | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | iPr2NEt | 0.11 mmol, 0.19 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-N-{1-[(4-methylpiperidin-1-yl)carbonyl]-3-phenylpropyl}benzenesulfonamide | ClC1=C(C=CC=C1)S(=O)(=O)NC(CCC1=CC=CC=C1)C(=O)N1CCC(CC1)C | C22H27ClN2O3S
